US04990683
Heating malic acid with benzylamine in ethanol at 170° C. to give N-benzyl-3-hydroxysuccinimide and reducing with lithium aluminum hydride to give N-benzyl-3-pyrrolidinol.

reactant | malic acid | C(C(O)CC(=O)O)(=O)O | C4H6O5
reactant | benzylamine | C(C1=CC=CC=C1)N | C7H9N
solvent | ethanol | C(C)O | C2H6O
product | N-benzyl-3-hydroxysuccinimide | C(C1=CC=CC=C1)N1C(CC(C1=O)O)=O | C11H11NO3
